US08669234B2
A degassed mixture of (1-{7-[5-(4-bromophenyl)-1H-imidazol-2-yl]-5-oxa-6-aza-spiro[3.4]octane-6-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (85 mg, 0.17 mmol), bis(pinacolato)diboron (66 mg, 0.26 mmol), potassium acetate (51 mg, 0.52 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (13 mg, 0.018 mmol) in 1,4-dioxane (1.7 mL) was heated to 85° C. for 75 minutes. After cooling to room temperature, the reaction was filtered through a palladium scavenging column (STRATOSPHERES™ PL-Guanidine MP SPE+, Part #: PL3514-CM89) and the solids were rinsed with ethyl acetate. The filtrate was washed with water and brine, dried (MgSO4), and concentrated. The crude residue was purified by flash chromatography to yield [2-methyl-1-(7-{5-[4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-5-oxa-6-azaspiro[3.4]octane-6-carbonyl)-propyl]-carbamic acid methyl ester (81 mg, 87%). LCMS-ESI+: calculated for C28H39BN4O6: 538.30; observed [M+1]+: 539.12.

reactant | (1-{7-[5-(4-bromophenyl)-1H-imidazol-2-yl]-5-oxa-6-aza-spiro[3.4]octane-6-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.17 mmol, 85 mg | COC(NC(C(C)C)C(=O)N1OC2(CCC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C22H27BrN4O4
reactant | bis(pinacolato)diboron | 0.26 mmol, 66 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.52 mmol, 51 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 1.7 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) | 0.018 mmol, 13 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [2-methyl-1-(7-{5-[4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-5-oxa-6-azaspiro[3.4]octane-6-carbonyl)-propyl]-carbamic acid methyl ester | 81 mg, 87% | COC(NC(C(C)C)C(=O)N1OC2(CCC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C28H39BN4O6
